US08003662B2
Step B: Preparation of N-(3-fluoro-4-(2-(4-methylpiperazin-1-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A round-bottomed flask was charged with 3-fluoro-4-(2-(4-methylpiperazin-1-yl)thieno[3,2-b]pyridin-7-yloxy)aniline (40.0 mg, 0.112 mmol), 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (39.2 mg, 0.167 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (64.2 mg, 0.335 mmol), 1H-benzo[d][1,2,3]triazol-1-ol (45.2 mg, 0.335 mmol), N-ethyl-N-isopropylpropan-2-amine (0.0996 ml, 0.558 mmol) and DMF (10 mL). The reaction mixture was stirred at room temperature until the starting material had been consumed (overnight). Then the reaction was partitioned between EtOAc (50 mL) and H2O (50 mL). The phases were separated and the aqueous phase was re-extracted with EtOAc (3×100 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude product. The crude product was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 100/1 to 10/1, v/v) to afford product (48.3 mg, 75.3%). LRMS (APCI pos): >99% purity, 254 nm, m/e 575 (M+1). 1H NMR (400 MHz, CDCl3) δ 11.80 (s, 1H), 8.40 (d, 1H), 8.28 (d, 1H), 8.23 (d, 1H), 7.92 (dd, 1H), 7.61 (m, 2H), 7.36 (m, 1H), 7.17-7.24 (m, 3H), 6.36 (s, 1H), 6.29 (d, 1H), 3.37 (m, 4H), 2.58 (m, 4H), 2.36 (s, 3H).

reactant | 3-fluoro-4-(2-(4-methylpiperazin-1-yl)thieno[3,2-b]pyridin-7-yloxy)aniline | 0.112 mmol, 40.0 mg | FC=1C=C(N)C=CC1OC1=C2C(=NC=C1)C=C(S2)N2CCN(CC2)C | C18H19FN4OS
reactant | 2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxylic acid | 0.167 mmol, 39.2 mg | FC1=CC=C(C=C1)N1N=CC=C(C1=O)C(=O)O | C11H7FN2O3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.335 mmol, 64.2 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 0.335 mmol, 45.2 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.558 mmol, 0.0996 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(3-fluoro-4-(2-(4-methylpiperazin-1-yl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 48.3 mg, 75.3% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)N2CCN(CC2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C29H24F2N6O3S
